US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(3-phenyl-1-isoquinolinylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (86 mg, 0.33 mmol), potassium carbonate (158 mg, 1.14 mmol), 1-chloro-3-phenylisoquinoline (95 mg, 0.40 mmol) and 1 mL of anhydrous dimethylformamide, fitted with a reflux condenser, and the stirred mixture was heated at 60°, under nitrogen, for 18 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (80% ethyl acetate/hexanes eluent) to give 64 mg (42%) of the title compound as an off white solid. mp 183°-189°. FDMS: m/e=464. α[D]589 =54.61 (c=0.53, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.33 mmol, 86 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S)C)=O | C15H19NOS
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-phenylisoquinoline | 0.40 mmol, 95 mg | ClC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-phenyl-1-isoquinolinylthio)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 64 mg, 42% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC3=NC(=CC1=CC=CC=C31)C3=CC=CC=C3)C)=O | C30H28N2OS
